US04367238
Hydriodic acid (55-58%, 20 ml) was added to a solution of 2-[2-methoxy-3-(2-chlorophenoxy)phenyl]propionic acid (2.7 g) in acetic anhydride (10 ml) under ice-cooling. The mixture was refluxed under heating for 30 minutes. The reaction mixture was poured into aqueous solution of sodium hydrogen sulfite and extracted with diethyl ether. The extract was washed with aqueous sodium hydrogen sulfite and water, dried and evaporated. To the oily residue was added acetic anhydride (10 ml), and the mixture was refluxed under heating for 30 minutes. After cooling, the mixture was evaporated, and the oily residue was dissolved in diethyl ether. The solution was washed with saturated aqueous sodium bicarbonate and water, dried and then evaporated. The residue was subjected to column chromatography on silica gel (40 g) and eluted with benzene, and the eluate was evaporated. The oily residue was crystallized with n-hexane to give 3-methyl-7-(2-chlorophenoxy)-2,3-dihydrobenzofuran-2-one (1.15 g). mp 92°-95° C.

reactant | Hydriodic acid | 20 ml | I | HI
reactant | 2-[2-methoxy-3-(2-chlorophenoxy)phenyl]propionic acid | 2.7 g | COC1=C(C=CC=C1OC1=C(C=CC=C1)Cl)C(C(=O)O)C | C16H15ClO4
reactant | sodium hydrogen sulfite | S(=O)(O)[O-].[Na+]
solvent | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-methyl-7-(2-chlorophenoxy)-2,3-dihydrobenzofuran-2-one | 1.15 g | CC1C(OC2=C1C=CC=C2OC2=C(C=CC=C2)Cl)=O | C15H11ClO3
